US08912208B2
To 210 mg (0.4 mmol) [4-(4-{5-[3-(4-Trifluoromethoxy-phenyl)ureido]-pyridin-2-yl}-phenyl)-cyclohexyl]-acetic acid methyl ester in THF/H2O (10 mL; 4:1), 5 mL (4M) aqueous Lithium Hydroxide solution was added and the mixture stirred at 60° C. for 5 hours. Acidified with concentrated hydrochloric acid which precipitated the desired compound. Filtered and dried under vacuum to afford [4-(4-{5-[3-(4-Trifluoromethoxy-phenyl)-ureido]-pyridin-2-yl}-phenyl)-cyclohexyl]-acetic acid, which was subsequently dissolved in methanol (5 mL) one equivalent of potassium hydroxide and 2 mL of H2O were added and the resulting mixture was stirred at 40° C. for 2 hours. Evaporated to dryness to afford [4-(4-{5-[3-(4-Trifluoromethoxy-phenyl)-ureido]-pyridin-2-yl}-phenyl)-cyclohexyl]-acetic acid as the potassium salt: 1H NMR (400 MHz, MeOD) ppm 1.03-1.14 (m, 2 H) 1.45 (td, J=12.57, 9.98 Hz, 2 H) 1.75-1.87 (m, 5H) 2.03 (d, J=7.07 Hz, 2 H) 2.37-2.47 (m, 1 H) 7.12 (d, J=8.34 Hz, 2 H) 7.21 (d, J=8.34 Hz, 2 H) 7.43-7.51 (m, 2 H) 7.64-7.73 (m, 3 H) 7.96 (dd, J=8.72, 2.65 Hz, 1 H) 8.58 (d, J=2.27 Hz, 1H); (M+H)+ 514.2.

reactant | [4-(4-{5-[3-(4-Trifluoromethoxy-phenyl)ureido]-pyridin-2-yl}-phenyl)-cyclohexyl]-acetic acid methyl ester | 0.4 mmol, 210 mg | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)=O | C28H28F3N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | THF H2O | 10 mL | C1CCOC1.O
solvent | Lithium Hydroxide | 4M, 5 mL | [OH-].[Li+]
product | [4-(4-{5-[3-(4-Trifluoromethoxy-phenyl)-ureido]-pyridin-2-yl}-phenyl)-cyclohexyl]-acetic acid | FC(OC1=CC=C(C=C1)NC(NC=1C=CC(=NC1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)O)=O)(F)F | C27H26F3N3O4
